US04001272
A solution of 5 parts of 3,4,5,6-tetrahydrophthalic anhydride in 100 parts of glacial acetic acid was treated with 4.3 parts of 2,4-difluoroaniline at once and stirred for one hour. After refluxing for 20 hours, the reaction mixture was poured over 200 parts of ice. The resulting crystals were filtered and recrystallized from 70 parts of methanol at -40°C to yield 5 parts off-white crystals of 2-(2,4-difluorophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione melting at 73°-74°C.

reactant | 3,4,5,6-tetrahydrophthalic anhydride | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2,4-difluorophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | FC1=C(C=CC(=C1)F)N1C(C=2CCCCC2C1=O)=O | C14H11F2NO2
